US09403798B2
tert-Butyl (3S,4S)-4-(4-fluorophenyl)-4-hydroxy-3-(pivaloyloxy)piperidine-1-carboxylate
To a dichloromethane solution (17 mL) of tert-butyl (3S,4S)-4-(4-fluorophenyl)-3,4-dihydroxypiperidine-1-carboxylate (1.66 g, 5.33 mmol) synthesized in Reference Synthesis Example 129 and 4-dimethylaminopyridine (33.0 mg, 0.270 mmol), pivalic acid anhydride (1.29 g, 6.93 mmol) and triethylamine (1.49 mL, 10.7 mmol) were added and the resultant mixture was stirred at room temperature for 18 hours and 30 minutes. After completion of the reaction, ethyl acetate was added to the reaction solution and the resultant mixture was washed with each of saturated ammonium chloride aqueous solution and saturated sodium chloride aqueous solution. The obtained organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1→3/1) to obtain the title compound (2.07 g, yield 98%).

reactant | dichloromethane | 17 mL | ClCCl | CH2Cl2
reactant | tert-butyl (3S,4S)-4-(4-fluorophenyl)-3,4-dihydroxypiperidine-1-carboxylate | 5.33 mmol, 1.66 g | FC1=CC=C(C=C1)[C@@]1([C@H](CN(CC1)C(=O)OC(C)(C)C)O)O | C16H22FNO4
reactant | pivalic acid anhydride | 6.93 mmol, 1.29 g | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
reactant | triethylamine | 10.7 mmol, 1.49 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 0.270 mmol, 33.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl (3S,4S)-4-(4-fluorophenyl)-4-hydroxy-3-(pivaloyloxy)piperidine-1-carboxylate | 2.07 g, yield 98% | FC1=CC=C(C=C1)[C@@]1([C@H](CN(CC1)C(=O)OC(C)(C)C)OC(C(C)(C)C)=O)O | C21H30FNO5
